US07585875B2
To two 20 ml microwave reaction vials were each added 3-iodo-2-isopropyl-pyrazolo[1,5-a]pyridine (486 mg, 1.69 mmol), tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-pyrazolecarboxylate (500 mg, 1.69 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) complex with dichloromethane (139 mg, 0.17 mmol), acetonitrile (8 ml), and 1 M aqueous NaHCO3 solution (5 ml). The mixture was placed in a microwave reactor for 2 hours at 140° C. The reaction mixture from the two vials were combined and concentrated in vacuo, and the crude material was partitioned between dichloromethane and water. The organic layer was separated, dried over sodium sulfate, filtered, and concentrated in vacuo. The crude material was purified by silica gel flash chromatography (0 to 50% ethyl acetate in hexanes) to give the protected-analog. The protected analog was dissolved in 20% trifluoroacetic acid in dichloromethane (50 ml) and stirred at room temperature. The reaction was monitored by HPLC for completion (2 hours). The mixture was concentrated in vacuo, and the concentrated material was dissolved in 4N hydrochloric acid in dioxane. Ether was added to the acidic solution to precipitate out the desired material. The material was filtered and dried in vacuo under high vacuum to give 235 mg (31%) of 2-isopropyl-3-(1H-pyrazol-4-yl)-pyrazolo[1,5-a]pyridine as the hydrochloric acid salt. 1H-NMR (250 MHz, DMSO-d6) δ 8.70 (broad s, 1H), 8.64 (d, J=7.0 Hz, 2H), 8.07 (s, 1H), 7.61 (d, J=9.0 Hz, 1H), 7.19 (dd, J=7.8, 6.8 Hz, 1H), 6.85 (t, J=6.8 Hz, 1H), 3.30 (sept, J=7.0 Hz, 1H), 1.29 (d, J=6.8 Hz, 6H); LC/MS 227.1 m/z (M+H+). Compound 1104.

reactant | 3-iodo-2-isopropyl-pyrazolo[1,5-a]pyridine | 1.69 mmol, 486 mg | IC=1C(=NN2C1C=CC=C2)C(C)C | C10H11IN2
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-pyrazolecarboxylate | 1.69 mmol, 500 mg | CC1(OB(OC1(C)C)C=1C=NN(C1)C(=O)OC(C)(C)C)C | C14H23BN2O4
reactant | acetonitrile | 8 ml | C(C)#N | C2H3N
reactant | NaHCO3 | 1 M, 5 ml | C(=O)(O)[O-].[Na+]
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 0.17 mmol, 139 mg | ClCCl | CH2Cl2
product | 2-isopropyl-3-(1H-pyrazol-4-yl)-pyrazolo[1,5-a]pyridine | 235 mg, 31% | C(C)(C)C1=NN2C(C=CC=C2)=C1C=1C=NNC1 | C13H14N4
